US08686026B2
Compound I can be prepared according to the procedures described in U.S. Provisional Patent Application No. 61/243,596, filed Sep. 18, 2009. To a mixture of (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (19.66 g, 112 mmol) and N-hydroxysuccinimide (13.29 g, 116 mmol) was added ethyl acetate (250 ml), and the mixture was cooled to 0-5° C. Diisopropylcarbodiimide (13.88 g, 110 mmol) was added and the reaction mixture was stirred at 0-5° C. for about 1 hour. The reaction mixture was warmed to room temperature. The solids (diisopropylurea by-product) were filtered and rinsed with ethyl acetate. The filtrate was concentrated in vacuo to an oil. Isopropyl alcohol (200 ml) was added to the oil and the mixture was heated to about 50° C. to obtain a homogeneous solution. Upon cooling, crystalline solids formed. The solids were filtered and washed with isopropyl alcohol (3×20 ml) and dried to give (S)-2,5-dioxopyrrolidin-1-yl 2-(methoxycarbonylamino)-3-methylbutanoate as a white solid (23.2 g, 77% yield).

reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 112 mmol, 19.66 g | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | N-hydroxysuccinimide | 116 mmol, 13.29 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | Diisopropylcarbodiimide | 110 mmol, 13.88 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2,5-dioxopyrrolidin-1-yl 2-(methoxycarbonylamino)-3-methylbutanoate | 23.2 g, 77% yield | COC(=O)N[C@H](C(=O)ON1C(CCC1=O)=O)C(C)C | C11H16N2O6
